Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't feel like I can do anything anymore."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of chronic 
anxiety and dysthymia who is brought to the emergency department 
by EMS due to worsening symptoms of depression, irritability, 
and expressed suicidal ideation. On initial and subsequent 
interviews, patient is unable to describe fully her current 
symptoms, nor precipitants for current symptoms. Although she 
endorses fatigue and diminished motivation, she is unable to 
cite specific stressors or precipitants for decline in mood or 
functioning. Stated, "I feel frustrated and exhausted." 
Explained that she currently lives with her sister and 
step-grandmother in her step-grandmother's home; described 
living arrangements as "cramped" (e.g. "I don't have space to do 
what I want to do"), adding that she has "anxiety about wanting 
to get organized." Has been self-employed as a ___ for 
the past ___ years, working four days per week; describes work as 
"tiring" but "it's the only thing [she knows] how to do for 
work." Also cited intermittent conflict with boyfriend as 
contributing to low mood. Explained, "It feels like I'm losing 
control in these situations. One little thing, and it's like the 
last straw. In those moments I don't know what to do." However, 
patient describes her relationship with her boyfriend as 
supportive; two have been dating for ___ year (met eachother ___ 
years ago). [Should be noted that patient's boyfriend called EMS 
and reported to Dr. ___ patient had not been eating or 
sleeping, and endorsed suicidal ideation]. Regarding thoughts of 
suicide, patient was not able to elaborate further beyond "vague 
thoughts of death." However, affirmed that she feels safe on 
this unit, and would be capable of approaching staff if 
thoughts/urges of self-harm intensified.
 
Past Medical History:
Past psychiatric history notable for previous diagnoses of 
depression and anxiety. No previous hospitalizations. Has 
therapist ___ ___, no consistent 
psychiatrist. Reported previous medication trials of several 
antidepressants (Prozac, Cymbalta, Celexa), none with 
significant improvement in symptoms. Of noted, patient reported 
that "citalopram ___ years ago led to significant weight gain and 
feeling numb, not helpful. Duloxetine ___ to help with 
chronic pain, led to severe exhaustion and did not help." Denies 
previous suicide attempts or self-injurious behavior. 
  
Past medical history:
- myofacial pain syndrome in neck
- recurrent UTIs
- asthma
- chronic pelvic pain
  
Allergies: NKDA; pollen and shellfish
 
Social History:
___
Family History:
Family psychiatric history notable for several family members 
with depression and anxiety; siblings with chronic SI, no known 
suicide attempts
 
Physical Exam:
PHYSICAL EXAMINATION: 
 VS: ___ 2252 Temp:97.7 BP:117/80 HR:74 RR:16 O2:98% 
 General: NAD, sitting up in chair.
 HEENT: PERRL, MMM.
 Neck: Supple. No adenopathy or thyromegaly.
 Lungs: CTAB; no crackles or wheezes.
 CV: RRR; no m/r/g
 Abdomen: Soft, NT, ND.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: Warm and dry, no cyanosis or erythema. No rash.
  
NEUROLOGICAL EXAM:
CN: PERRL, EOMI, smile symmetric, shoulder shrug intact
Motor: strength ___ in all four ext b/l
*Deep tendon Reflexes: Patellar: 1+
Gait/Romberg: gait wnl, Romberg not assessed
  
MENTAL STATUS EXAM:
-Appearance: ___ year old woman who appears younger than stated 
age, sitting up in chair in NAD
-Behavior: Calm and cooperative with interview, makes 
appropriate eye contact, answers questions appropriately
-Mood and Affect: "tired", affect constricted, fatigued, 
dysphoric
-Thought process: linear, goal-directed, no loose associations, 
no tangentiality, no circumstantiality
-Thought Content: Denies SI/HI/AVH, does not appear to be 
responding to internal stimuli
-Judgment and Insight: impaired/impaired
  
COGNITIVE EXAM:
*Attention, *orientation, and executive function: has difficulty 
attending to some aspects of interview, able to state DOTWB; 
fully oriented to person, ___, and date; executive function 
not formally tested
*Memory: intact to recent events on interview
*Fund of knowledge: Accurately states last three ___ presidents.
*Speech: normal amount, volume and tone normal, rhythm normal
*Language: fluent, native ___ speaker

 
Pertinent Results:
___ 02:10PM URINE  HOURS-RANDOM
___ 02:10PM URINE  UCG-NEGATIVE
___ 02:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:10PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:10PM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 02:10PM URINE  MUCOUS-OCC*
___ 12:46PM   GLUCOSE-85 UREA N-11 CREAT-0.6 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-22 ANION GAP-15
___ 12:46PM   CALCIUM-9.1 PHOSPHATE-2.2* MAGNESIUM-2.3
___ 12:46PM   WBC-7.0 RBC-4.50 HGB-13.0 HCT-40.2 MCV-89 
MCH-28.9 MCHC-32.3 RDW-14.0 RDWSD-45.6
___ 12:46PM   NEUTS-74.4* LYMPHS-18.5* MONOS-5.1 EOS-0.9* 
BASOS-0.7 IM ___ AbsNeut-5.24 AbsLymp-1.30 AbsMono-0.36 
AbsEos-0.06 AbsBaso-0.05
___ 12:46PM   PLT COUNT-354
 
Brief Hospital Course:
Mr. ___ is a ___ year old woman with a history of chronic 
anxiety and dysthymia who is brought to the emergency department 
by EMS due to worsening symptoms of depression, irritability, 
and expressed suicidal ideation. 
  
  
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
  
  
2. PSYCHIATRIC
#Major Depressive Disorder 
At the time of presentation, the patient had difficulty fully 
describing her current mood state, almost to the point of 
alexithymia. She did endorse recent fatigue, poor sleep, poor 
appetite, anhedonia, decreased motivation, diminished 
concentration, and passive suicidal thoughts. While she denied 
suicidal plan or intent, she did note that she had recently felt 
worried that she may lose control and do something unsafe. 
Collateral from her boyfriend, in addition to patient's 
appraisal of her own functioning, was concerning for recent 
deterioration and heightened irritability and depressed mood. On 
initial exam, she had a restricted affect and made minimal eye 
contact with interviewers. 
  
Her presentation appeared most consistent with major depressive 
disorder, but there was additionally an element of 
trauma-related symptoms contributing to her presentation. 
Patient has a history of sexual assault and also described 
arguments with boyfriend evoking memories from childhood when 
she observed her mother/stepfather arguing. 

She reported previous medication trials of fluoxetine, 
citalopram, and duloxetine which were discontinued either due to 
ineffectiveness or side effects. She was started on Wellbutrin 
XR 150mg daily and Hydroxyzine 25mg BID:PRN anxiety/insomnia. 
She reported feeling jittery, anxious, with racing heart on 
Wellbutrin XR 150mg so was transitioned to Wellbutrin SR 100mg. 
She tolerated this well with no reported side effects. Over the 
course of her admission, she engaged in treatment, including 
individual therapy as well as groups focused on coping. She 
reported improvement in her mood and energy level. She denied 
any suicidal ideation, reporting that she was no longer in a 
dark place. She had a less constricted affect and was brighter 
and more reactive. At the time of discharge, she was 
future-oriented, looking forward to getting back to work. 
  
  
3. MEDICAL
#Chronic pelvic pain: Patient reported intermittent right-sided 
pelvic pain exacerbated by urination, bowel movements, and 
intercourse. She denied heavy or irregular menstrual bleeding 
and stated that she usually does not take anything for the pain, 
as ibuprofen and Tylenol have never seemed to help. Patient has 
had discussions about endometriosis with doctors in the past but 
has never been definitively diagnosed. She reports that her 
symptoms are currently at baseline and tolerable. She declined 
offer for PRN pain medication during this admission.
  
  
4. SUBSTANCE USE: Patient reported intermittent marijuana use.  
She was provided with counseling regarding marijuana use and 
possible negative impact substance use has on her anxiety/mood. 
  
  
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  She was also noted to be social 
with her peers in the milieu and pleasant with staff members. 
  
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Patient provided verbal permission to contact her outpatient 
therapist ___ ___ and her 
outpatient PCP (Dr. ___ ___. Providers were 
contacted for collateral information and for discharge planning. 
Patient also gave verbal permission to contact her boyfriend  
___ who provided the primary team with 
collateral information.
  

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Wellbutrin and Hydroxyzine, and risks and benefits of 
possible alternatives, including not taking the medications, 
with this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
  
  
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
worsening functioning with passive suicidal ideation, fears of 
losing control and doing something unsafe.  Her static factors 
noted at that time include history of trauma and abuse, chronic 
mental illness, chronic pain (fibromyalgia, myofascial pain 
syndrome, chronic pelvic pain) .  The modifiable risk factors, 
which included lack of outpatient treaters, passive suicidal 
ideation, acute mood episode, and medication noncompliance 
(history of discontinuing several antidepressants due to side 
effects) were also addressed at that time.  The patient engaged 
in individual and group therapy focusing on coping skills during 
her admission; she was also started on Wellbutrin which she 
tolerated well and outpatient follow up was scheduled.  Finally, 
the patient is being discharged with many protective factors, 
including future-oriented thinking, willingness to seek help, 
and sense of responsibility to family.  Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  BuPROPion (Sustained Release) 100 mg PO QAM 
RX *bupropion HCl [Wellbutrin SR] 100 mg 1 tablet by mouth daily 
Disp #*14 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO BID:PRN insomnia/anxiety 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth daily PRN Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status:
  -Appearance: ___ year old woman, appearing her stated age, well
groomed, wearing casual home clothing
  -Behavior: sitting up in a chair, making appropriate eye
contact with interviewers, no psychomotor agitation or
retardation
  -Attitude: calm and cooperative with the interview, easily
engaged
  -Mood and Affect: 'fine'; bright, appropriately reactive 
affect smiling several times throughout interview appropriately; 
less anxious appearing than previous
  -Speech: normal volume, rate, tone
  -Thought process: linear, no loose associations, organized
  -Thought content: denies SI and is future oriented, looking 
forward to getting back to work, did not endorse HI or AVH, does 
not appear to be responding to internal stimuli, no evidence of 
paranoia or delusions
  -Judgment and Insight: good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___